US07244730B2
(Step 7) N1-Methyl-5-bromo-4-[({2-[3,5-di(tert-butyl)-4-hydroxyphenyl]-2-oxoethyl}amino)methyl]-2-ethoxybenzamide
After dissolving thiophenol (1.27 ml) in dimethylformamide (20 ml), sodium hydride (480 mg) was added. The mixture was stirred at room temperature for 30 minutes and then the N1-methyl-5-bromo-4-({{2-[3,5-di(tert-butyl)-4-hydroxyphenyl]-2-oxoethyl}[(4-nitrophenyl)sulfonyl]amino}methyl)-2-ethoxybenzamide (2.95 g) was added. After stirring at room temperature for 1 hour, the mixture was diluted with ethyl acetate and washed with water and brine, and then the organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (1.75 g) as a light orange oil. (78% yield)

reactant | thiophenol | 1.27 ml | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydride | 480 mg | [H-].[Na+]
reactant | N1-methyl-5-bromo-4-({{2-[3,5-di(tert-butyl)-4-hydroxyphenyl]-2-oxoethyl}[(4-nitrophenyl)sulfonyl]amino}methyl)-2-ethoxybenzamide | 2.95 g | CNC(C1=C(C=C(C(=C1)Br)CN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)OCC)=O | C33H40BrN3O8S
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N1-Methyl-5-bromo-4-[({2-[3,5-di(tert-butyl)-4-hydroxyphenyl]-2-oxoethyl}amino)methyl]-2-ethoxybenzamide | 1.75 g, 78% yield | CNC(C1=C(C=C(C(=C1)Br)CNCC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)OCC)=O | C27H37BrN2O4
